US09447078B2
Cyclohexylmethanol (1.60 g, 14.0 mmol) was slowly added to a cooled (0° C.) suspension of sodium hydride (0.30 g, 12.5 mmol) in anhydrous NMP (5 mL) under Ar. A solution of cyclohexylmethyl 5-bromofuran-2-carboxylate (1.79 g, 6.23 mmol) in anhydrous NMP (6 mL) was added to the reaction mixture and stirred overnight at room temperature. The reaction mixture was partitioned between aqueous NH4Cl (25%) and hexanes. Aqueous layer was extracted with hexanes and combined organic layers were washed with brine and concentrated under reduced pressure. Purification by flash chromatography (2%-10% EtOAc—hexanes gradient) gave cyclohexylmethyl 5-(cyclohexylmethoxy)furan-2-carboxylate as a colorless oil. Yield (1.05 g, 53%); 1H NMR (400 MHz, CDCl3) δ 7.10 (d, J=3.4 Hz, 1H), 5.27 (d, J=3.9 Hz, 1H), 4.05 (d, J=6.4 Hz, 2H), 3.91 (d, J=5.9 Hz, 2H), 1.62-1.85 (m, 12H), 1.10-1.33 (m, 6H), 0.94-1.10 (m, 4H).

reactant | Cyclohexylmethanol | 14.0 mmol, 1.60 g | C1(CCCCC1)CO | C7H14O
reactant | sodium hydride | 12.5 mmol, 0.30 g | [H-].[Na+]
reactant | cyclohexylmethyl 5-bromofuran-2-carboxylate | 6.23 mmol, 1.79 g | BrC1=CC=C(O1)C(=O)OCC1CCCCC1 | C12H15BrO3
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | cyclohexylmethyl 5-(cyclohexylmethoxy)furan-2-carboxylate | C1(CCCCC1)COC1=CC=C(O1)C(=O)OCC1CCCCC1 | C19H28O4
